US04795817
A solution of 3-(2,5-dimethylpyrrolyl)-1-methyl-pyrazole (5.0 g, 28.6 mmol) in dry tetrahydrofuran (250 mL) was cooled to -78° C. Then, n-butyllithium (19.5 mL, 1.6M, 31.2 mmol) was added dropwise over 15 min followed by stirring for 2 h at -78° to -60° C. Ethyl chloroformate (3.58 mL, 37.5 mmol) was added and the solution was warmed to room temperature and stirred 1 h. The solvent was removed at reduced pressure and the residue was partitioned between ether and water. Phases were separated and the organic layer was washed with brine, filtered through a cone of sodium sulfate, and concentrated to leave an oil. This residue was chromatographed on Silica Woelm®TSC (600 g, 15% ether-hexane) to give after an 850 mL forerun, 0.18 of an impurity in 500 mL and 4.69 g of oil in 700 mL. The oil was kugelrohr distilled, 100° to 110° C., (0.15 mm) to give 4.24 g, 60% of 5-carboethoxy-3-(2,5-dimethylpyrrolyl)-1-methylpyrazole as a clear oil; IR (neat) 1728, 1546, 1494, 1273, 1252 cm-1.

reactant | 3-(2,5-dimethylpyrrolyl)-1-methyl-pyrazole | 28.6 mmol, 5.0 g | CC=1NC(=CC1C1=NN(C=C1)C)C | C10H13N3
reactant | n-butyllithium | 31.2 mmol, 1.6M, 19.5 mL | C(CCC)[Li]
reactant | Ethyl chloroformate | 37.5 mmol, 3.58 mL | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 5-carboethoxy-3-(2,5-dimethylpyrrolyl)-1-methylpyrazole | 4.24 g, 60% | C(=O)(OCC)C1=CC(=NN1C)C1=C(NC(=C1)C)C | C13H17N3O2
